US08207147B2
4-[5-(2-Cyanopyridin-4-yl)[1,2,4]oxadiazol-3-ylmethoxy]piperidine-1-carboxylic acid phenyl ester
To a stirred solution of 4-[3-(piperidin-4-yloxymethyl)[1,2,4]oxadiazol-5-yl]pyridine-2-carbonitrile (Preparation 25, 700 mg, 2.5 mmol) in DCM (30 ml) was added triethylamine (0.7 ml, 4.9 mmol). The resulting solution was transferred to a stirred solution of phenylchloroformate (0.62 ml, 4.9 mmol) in DCM (30 ml) and stirring was continued for 30 min at rt. The reaction mixture was diluted with EtOAc (250 ml) then washed successively with water (100 mL), saturated aqueous sodium carbonate (100 ml) and brine (100 ml). The organics were dried (MgSO4) then adsorbed onto silica gel. Purification via chromatography (EtOAc-IH, 1:1 to 3:2) afforded the title compound: RT=3.63 nm in; m/z (ES+)=406.01 [M+H]+.

reactant | 4-[3-(piperidin-4-yloxymethyl)[1,2,4]oxadiazol-5-yl]pyridine-2-carbonitrile | 2.5 mmol, 700 mg | N1CCC(CC1)OCC1=NOC(=N1)C1=CC(=NC=C1)C#N | C14H15N5O2
reactant | triethylamine | 4.9 mmol, 0.7 ml | C(C)N(CC)CC | C6H15N
reactant | phenylchloroformate | 4.9 mmol, 0.62 ml | C1(=CC=CC=C1)OC(=O)Cl | C7H5ClO2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | EtOAc | 250 ml | CCOC(=O)C | C4H8O2
product | 4-[5-(2-Cyanopyridin-4-yl)[1,2,4]oxadiazol-3-ylmethoxy]piperidine-1-carboxylic acid phenyl ester | C1(=CC=CC=C1)OC(=O)N1CCC(CC1)OCC1=NOC(=N1)C1=CC(=NC=C1)C#N | C21H19N5O4
